US08703682B2
PDA 1: N,N′-di-sec-butyl-N,N′-di-(2-ethylhexyl)-p-phenylenediamine
N,N′-di-sec-butyl-p-phenylenediamine (20.8 g, 94 mmol) and sodium triacetoxyhydroborate (60.0 g, 283 mmol) in dichloromethane (500 ml) was treated with 2-ethylhexanal (30.3 g, 236 mmol) and stirred at room temperature for 15 hours. TLC showed the reaction complete and the reaction mixture was decanted to a beaker and quenched by addition of saturated aqueous NaHCO3 and stirred until effervescence ceased. The organic phase was separated and washed twice with water, once with brine and then dried (MgSO4), filtered and concentrated in vaccuo to afford a red oil. The product was chromatographed (eluent 5% ethyl acetate in heptane). Relevant fractions were collected and concentrated to afford a red oil (36.16 g, 82% yield).

reactant | N,N′-di-sec-butyl-p-phenylenediamine | 94 mmol, 20.8 g | C(C)(CC)NC1=CC=C(C=C1)NC(C)CC | C14H24N2
reactant | sodium | [Na] | Na
reactant | 2-ethylhexanal | 236 mmol, 30.3 g | C(C)C(C=O)CCCC | C8H16O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | N,N′-di-sec-butyl-N,N′-di-(2-ethylhexyl)-p-phenylenediamine | 36.16 g, 82% yield | C(C)(CC)N(C1=CC=C(C=C1)N(CC(CCCC)CC)C(C)CC)CC(CCCC)CC | C30H56N2
